US07419967B2
N-[(2R,3S)-3-amino-2-hydroxy-4-phenylbutyl]-N-(sec-butoxy)-4-methoxybenzene-sulfonamide.
tert-butyl N-((1S,2R)-1-benzyl-3-sec-butoxy[(4-methoxyphenyl)sulfonyl]amino-2-hydroxy-propyl)carbamate (1.9 mmol, 1 g) was stirred in neat trifluoroacetic acid (TFA) at room temperature for 1 hour. The TFA was removed under vacuum, and the resulting residue was dissolved in ethyl acetate, washed with 5% aq. potassium carbonate solution, brine and dried over magnesium sulfate. The dried solution was concentrated under vacuum and stored as a sticky white solid. H1-NMR (CDCl3): δ 7.81 (2H,d), 7.28-7.16 (5H,m), 7.01 (2H,d), 4.31 (2H,bs), 4.01-3.90 (1H,bs), 3.88 (3H,s), 3.5-2.5 (1H,bs), 3.33(2H,bs), 2.89 (2H,bs), 2.63(2H,bs), 1.71 (1H,bs), 1.43-1.40 (1H,m), 1.27-1.19 (3H,m), 0.98-0.85 (3H,m); MS (ESI): M+H=423.

reactant | tert-butyl N-((1S,2R)-1-benzyl-3-sec-butoxy[(4-methoxyphenyl)sulfonyl]amino-2-hydroxy-propyl)carbamate | 1.9 mmol, 1 g | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC(C)CC)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(OC(C)(C)C)=O | C26H38N2O7S
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-[(2R,3S)-3-amino-2-hydroxy-4-phenylbutyl]-N-(sec-butoxy)-4-methoxybenzene-sulfonamide | N[C@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)OC)OC(C)CC)O)CC1=CC=CC=C1 | C21H30N2O5S
